US07153522B1
No 1 -Menthol Compounded
The manufacturing method mentioned above was carried out according to this formulation followed by cutting into a desired size to give a mixed preparation of estradiol and norethisterone acetate.

reactant | estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O | C18H24O2
reactant | norethisterone acetate | CC(=O)O[C@]1(CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@H]34)C)C#C | C22H28O3
product | 1 -Menthol | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
